* Netlist generated by ASDL for backend `lvs.klayout`

* ===============================================
* DFF_2phase_1
* /Users/jianxunzhu/Documents/GitHub/osic-suite/ASDL/examples/libs/sw_matrix/DFF_2phase_1/DFF_2phase_1.asdl
* ===============================================
.subckt DFF_2phase_1 D Q PHI_1 PHI_2 VDDd VSSd
Xlatch_master D PHI_1 out_m VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__latq_1
Xlatch_slave out_m PHI_2 Q VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__latq_1
.ends